US07411072B2
N-[6-(10,11-Dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-pyridin-2-yl]-methanesulfonamide
Mix 6-(10,11-dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-pyridin-2-ylamine (70 mg, 0.235 mmol), triethylamine (68 μL, 0.470 mmol), N,N-dimethylaminopyridine (3 mg, 0.024 mmol), and methanesulfonyl chloride (19 μL, 0.247 mmol) in CH2Cl2 (2 mL). Stir at room temperature overnight and add 150 □L triethylamine and 40 μL methanesulfonyl chloride. Stir at room temperature for 6 h and add 1.00N aqueous HCl (1 mL). Load mixture onto a Varian ChemElut CE1005 solid-phase extraction cartridge, then elute, collect, and concentrate 45 mL CH2Cl2. Dissolve crude product in THF (5 mL), add 1.0M tetrabutylammonium fluoride (0.25 mL), and heat to reflux for 1 h. Cool to room temperature and dilute with H2O and brine. Extract into ethyl acetate, dry (MgSO4) and concentrate organics. Chromatograph on silica gel (10 g), eluting with 20% to 35% ethyl acetate/hexanes to afford 61 mg (69%) of the title compound as a yellow oil. MS (ES) 377 (M+H), 375 (M−H); BPLC shows 96% purity.

reactant | 6-(10,11-dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-pyridin-2-ylamine | 0.235 mmol, 70 mg | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)=CC3=CC=CC(=N3)N | C21H18N2
reactant | triethylamine | 0.470 mmol, 68 μL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.247 mmol, 19 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | methanesulfonyl chloride | 40 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | HCl | 1.00N, 1 mL | Cl | ClH
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | N-[6-(10,11-Dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-pyridin-2-yl]-methanesulfonamide | 61 mg, 69% | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)=CC3=CC=CC(=N3)NS(=O)(=O)C | C22H20N2O2S
